US03975537
Acylation of 5-chloro-2-phenylbenzofuran with anisoyl chloride was accomplished as described in the procedure of Example 10 to give 5-chloro-2-phenyl-3-(4'-methoxybenzoyl)benzofuran which was then demethylated and the product treated with epichlorohydrin as described above. Opening of the epoxide ring with isopropylamine as previously described gave the title compound.

reactant | 5-chloro-2-phenylbenzofuran | ClC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C14H9ClO
reactant | anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 5-chloro-2-phenyl-3-(4'-methoxybenzoyl)benzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)C(C2=CC=C(C=C2)OC)=O)C1 | C22H15ClO3
